US05300282
(E)/(Z)-1-[2-(4-Bromo-6,11-dihydrodibenz[b,e]oxepin-11-ylidene)-ethyl]pyrrolidine (Compound J)
Anhydrous 2-(N-pyrrolidinyl)ethyltriphenylphosphonium bromide (20 g, 45 mmole), 45 mmole of n-butyl lithium in hexane (1.6 M), and 4-bromo-6,11-dihydrodibenz[b,e]oxepin-11-one (10 g, 35 mmole) were reacted in 550 mL dry tetrahydrofuran by the procedure in Example 1, Step a. This offered a (Z)/(E) (60:40) isomeric product as a light brown oil. pmr (DMSO-d6)δ: 7.28-7.56 (m, 5H, aromatic H); 7.15-7.26 (2 dd, 1H, H1); 6.88 (t, H3 of 60% Z); 6.84 (t, H3 of 40% E); 6.16 (t, CH= of 40% E): 5.86 (t, CH= of 60% Z); 5.30 (br s, 2H, ArCH2O); 2.28-2.54 (m, 6H, N(CH2)3); 1.66 (m, 4H, 2CH2).

reactant | 2-(N-pyrrolidinyl)ethyltriphenylphosphonium bromide | 45 mmole, 20 g | [Br-].N1(CCCC1)CC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | n-butyl lithium | 45 mmole | C(CCC)[Li]
reactant | 4-bromo-6,11-dihydrodibenz[b,e]oxepin-11-one | 35 mmole, 10 g | BrC1=CC=CC2=C1OCC1=C(C2=O)C=CC=C1 | C14H9BrO2
solvent | hexane | 1.6 M | CCCCCC | C6H14
solvent | tetrahydrofuran | 550 mL | O1CCCC1 | C4H8O
product | (Z)-1-[2-(4-Bromo-6,11-dihydrodibenz[b,e]oxepin-11-ylidene)-ethyl]pyrrolidine | BrC1=CC=CC\2=C1OCC1=C(/C2=C/CN2CCCC2)C=CC=C1 | C20H20BrNO
